US08030305B2
3-(2-Chloro-pyridin-4-ylmethyl)-6-pyridin-3-yl-[1,2,4]triazolo[4,3-b]pyridazine
The title compound was prepared as described in Example 1 as a pale orange solid from (2-Chloro-pyridin-4-yl)-acetic acid hydrazide (0.61 mmol) and 3-chloro-6-pyridin-3-yl-pyridazine (0.33 mmol). 1H NMR (CDCl3/CD3OD) δ 9.17 (1H, d, J=2.6 Hz), 8.79 (1H, dd, J=4.9 Hz, 1.6 Hz), 8.32 (1H, d, J=4.6 Hz), 8.30 (1H, d, J=9.5 Hz), 8.28 (1H, ddd, J=8.0 Hz, 2.4 Hz, 1.6 Hz), 7.70 (1H, d, J=9.6 Hz), 7.58 (1H, m), 7.47 (1H, s), 7.34 (1H, m), 4.67 (2H, s). ESI-MS (m/z): Calcd for C1-6H11N6Cl: 322.1; found 323.3 (M+H).

reactant | (2-Chloro-pyridin-4-yl)-acetic acid hydrazide | 0.61 mmol | ClC1=NC=CC(=C1)CC(=O)NN | C7H8ClN3O
reactant | 3-chloro-6-pyridin-3-yl-pyridazine | 0.33 mmol | ClC=1N=NC(=CC1)C=1C=NC=CC1 | C9H6ClN3
product | 3-(2-Chloro-pyridin-4-ylmethyl)-6-pyridin-3-yl-[1,2,4]triazolo[4,3-b]pyridazine | ClC1=NC=CC(=C1)CC1=NN=C2N1N=C(C=C2)C=2C=NC=CC2 | C16H11ClN6
